US07820673B2
93a) tert-butyl 4-(5-oxo-7,8-dihydroimidazo[1,5-c]pyrimidin-6(5H)-yl)-1-piperidinecarboxylate
To a solution of tert-butyl 4-oxo-1-piperidinecarboxylate (11 g) and histamine dihydrochloride (10 g) in 1,2-dichloroethane (300 ml) was added sodium triacetoxyborohydride (17 g), and mixed at room temperature for 15 hours. pH of the aqueous layer was adjusted to about 12 by adding a 1 N aqueous sodium hydroxide solution to the reaction solution, and then extracted with chloroform. The extract was dried over anhydrous magnesium sulfate, and then the solvent was distilled off under reduced pressure. The resulting yellow oil was dissolved in dichloromethane (300 ml), DBU (13 ml) and N,N′-carbonyldiimidazole (7.6 g) were added to the reaction solution, and mixed at room temperature for 15 hours. The reaction mixture was diluted with water and chloroform, and the organic layer was collected by separation, and then dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and the residue was purified with silica gel column (ethyl acetate:ethanol=5:1) to obtain the title compound as a colorless oil (13 g, 77%).

reactant | tert-butyl 4-oxo-1-piperidinecarboxylate | 11 g | O=C1CCN(CC1)C(=O)OC(C)(C)C | C10H17NO3
reactant | histamine dihydrochloride | 10 g | Cl.Cl.NCCC1=CNC=N1
reactant | sodium triacetoxyborohydride | 17 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
solvent | 1,2-dichloroethane | 300 ml | ClCCCl | C2H4Cl2
product | tert-butyl 4-(5-oxo-7,8-dihydroimidazo[1,5-c]pyrimidin-6(5H)-yl)-1-piperidinecarboxylate | 13 g, 77% | O=C1N(CCC=2N1C=NC2)C2CCN(CC2)C(=O)OC(C)(C)C | C16H24N4O3
